US05464865
By the method of example 1 above, 3-nitro-4-hydroxybenzaldehyde is converted into 1-(2,2-dimethoxyethyl)-3-nitro-4-octyloxybenzene. This material (1.83 g) is dissolved in ethanol (20 ml) and to the solution is added ammonium formate (3.5 g) and palladium black (0.30 g), and the mixture is stirred for 30 min. The mixture is filtered through diatomaceous earth and evaporated to dryness in vacuo. The residue is partitioned between water and dichloromethane, and the organic phase is dried over magnesium sulfate, filtered, and concentrated to give 1-(2,2-dimethoxyethyl)-3-amino-4-octyloxybenzene as an orange oil (1.64 g, 98%).

reactant | 3-nitro-4-hydroxybenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1O | C7H5NO4
reactant | 1-(2,2-dimethoxyethyl)-3-nitro-4-octyloxybenzene | COC(CC1=CC(=C(C=C1)OCCCCCCCC)[N+](=O)[O-])OC | C18H29NO5
reactant | ammonium formate | 3.5 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium black | 0.30 g | [Pd] | Pd
product | 1-(2,2-dimethoxyethyl)-3-amino-4-octyloxybenzene | 1.64 g, 98% | COC(CC1=CC(=C(C=C1)OCCCCCCCC)N)OC | C18H31NO3
